US08492577B2
WO 2005/102987 provides the reaction of 4-Bromobenzylic bromide and hydrochloride methylester of L-valine methylester in an aprotic solvent and organic or an inorganic base to give methylester of N-(4-bromobenzyl)-L-valine which is deprotected to give N-(4-bromobenzyl)-L-valine. This on acylation with valeryl chloride yields N-(4-bromobenzyl)-N-valeryl-L-valine. Valsartan is prepared by the reaction of N-(4-bromobenzyl)-N-valeryl-L-valine and 2-(1H-tetrazole-5-yl)phenylboronic acid in palladiumtetrakistriphenylphosphine.

reactant | N-(4-bromobenzyl)-N-valeryl-L-valine | BrC1=CC=C(CN([C@@H](C(C)C)C(=O)O)C(CCCC)=O)C=C1 | C17H24BrNO3
reactant | 2-(1H-tetrazole-5-yl)phenylboronic acid | N1N=NN=C1C1=C(C=CC=C1)B(O)O | C7H7BN4O2
product | Valsartan | CCCCC(=O)N(CC=1C=CC(=CC1)C=2C=CC=CC2C=3NN=NN3)[C@@H](C(C)C)C(=O)O | C24H29N5O3
